US06268387B1
3-(3,5-Dimethyl-phenylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 25 using 3-amino-4-methoxy-N-phenyl-benzamide (1.5 g, 6.3 mmol), tris(3,5-dimethylphenyl)-bismuthine (3.3 g, 6.3 mmol), copper(II) acetate (1.15 g, 6.3 mmol), and triethylamine (0.64 g, 6.3 mmol) to afford the product (1.1 g); m.p. 198-199° C. after recrystallization from a mixture of dichloromethane and ethyl acetate 10:1.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 6.3 mmol, 1.5 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | tris(3,5-dimethylphenyl)-bismuthine | 6.3 mmol, 3.3 g | CC=1C=C(C=C(C1)C)[Bi](C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C
reactant | triethylamine | 6.3 mmol, 0.64 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 6.3 mmol, 1.15 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(3,5-Dimethyl-phenylamino)-4-methoxy-N-phenyl-benzamide | 1.1 g | CC=1C=C(C=C(C1)C)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C22H22N2O2
